US05153166
D. Reaction with Octadecylamine
Fractogel phosphate (1; 5 g) containing a trace amount of pyridine was slurried with octadecylamine (6 g) and left at 60° C. for 2 days. Toluene (100 ml) was added to the flask and the mixture refluxed for 24 hours. The mixture was then filtered and the gel washed with methanol to yield Fractogel C-18 (4). The resin was capped with methyltrimethoxy silane in toluene-pyridine at 60° C. for 24 hours. Analysis showed; C, 48.82; H, 6.26; N, 5 1.34%.

reactant | methyltrimethoxy silane | C[Si](OC)(OC)OC | C4H12O3Si
reactant | toluene pyridine | C1(=CC=CC=C1)C.N1=CC=CC=C1
product | Octadecylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
